US07713993B2
Synthesis of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-[2-oxo-3-(3,4,5-trifluorophenyl)piperidin-1-yl]acrylamide
IPEA (0.41 mL), HOBT (105 mg) and EDC (149 mg) were added to a solution of 1-amino-3-(3,4,5-trifluorophenyl)piperidin-2-one hydrochloride (109 mg) and (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (100 mg) in DMF (2 mL), and the reaction solution was stirred at room temperature for three hours. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate->ethyl acetate:methanol=5:1) to obtain 95 mg of the title compound. The property values of the compound are as follows.

reactant | IPEA | 0.41 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 105 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-amino-3-(3,4,5-trifluorophenyl)piperidin-2-one hydrochloride | 109 mg | Cl.NN1C(C(CCC1)C1=CC(=C(C(=C1)F)F)F)=O
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 100 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 149 mg
product | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-[2-oxo-3-(3,4,5-trifluorophenyl)piperidin-1-yl]acrylamide | 95 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NN1C(C(CCC1)C1=CC(=C(C(=C1)F)F)F)=O | C25H23F3N4O3
